US05143928
N-[5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-oxo-2-thiazolidinylidene]glycine, (Z)-
A mixture of glycine (2.25 g, 0.03 mole), potassium-t-butoxide (2.81 g, 0.025 mole), and ethanol (700 mL) is stirred at room temperature for 15 minutes. 5-[(3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl)methylene]-2-(methylthio)-4(5H)-thiazolone (7.27 g, 0.02 mole) is added to it and the mixture is refluxed with stirring for 20 hours. The mixture is then filtered and the solvent removed at 40° C. under reduced pressure. The residue is treated with ice-water, acidified with 1N aqueous hydrochloric acid and extracted with ether. The organic layer is washed with water, dried, and the solvent removed to give 7.75 g of a solid. The crude solid is recrystallized from tetrahydrofuran-ether to give 2.95 g (38%) of pure N-[5-[3,5-[bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-oxo-2-thiazolidinylidene]glycine, (Z)-, mp 260° C. (dec).

reactant | glycine | 0.03 mole, 2.25 g | NCC(=O)O | C2H5NO2
reactant | potassium-t-butoxide | 0.025 mole, 2.81 g | CC(C)([O-])C.[K+]
reactant | 5-[(3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl)methylene]-2-(methylthio)-4(5H)-thiazolone | 0.02 mole, 7.27 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(S1)SC)=O | C19H25NO2S2
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | N-[5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-oxo-2-thiazolidinylidene]glycine | 7.75 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=NCC(=O)O)=O | C20H26N2O4S
